US05861393
(a) 5-Methylisoquinoline
A 3M solution of methyl magnesium iodide in ether (50 ml, 0.15 mol) was added dropwise to a stirred, ice-cooled solution of 5-bromoisoquinoline (21 g, 0.10 mol), obtained by the method described in J. Org. Chem., 1964, 29, 329, and [1,3-bis(diphenylphosphino)-propane]nickel(II) chloride (400 mg, 0.7 mmol) in anhydrous ether and the reaction mixture heated under reflux for 5 days, allowed to cool, then poured into water (500 ml). The organic phase was separated, combined with ether extracts of the aqueous phase, washed with saturated brine, dried (MgSO4) and evaporated under reduced pressure to yield an oil, chromatography of which on silica gel, using a 5-50% ether in hexane elution gradient, provided the required. product (8.4 g). Rf 0.40 (SS 8), m/e 144 (M+H)+. Found: C,79.57; H,6.26; N,8.61. C10H9N; 0.27 CH3CO2CH2CH3 requires C,79.70; H,6.74; N,8.39%.

reactant | methyl magnesium iodide | C[Mg]I
reactant | 5-bromoisoquinoline | 0.10 mol, 21 g | BrC1=C2C=CN=CC2=CC=C1 | C9H6BrN
reactant | water | 500 ml | O | H2O
reactant | CH3CO2CH2CH3 | CC(=O)OCC | C4H8O2
solvent | ether | CCOCC | C4H10O
catalyst | [1,3-bis(diphenylphosphino)-propane]nickel(II) chloride | 0.7 mmol, 400 mg | Cl[Ni]1([P](CCC[P](C2=CC=CC=C2)1C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5)Cl
solvent | ether | 0.15 mol, 50 ml | CCOCC | C4H10O
product | 5-Methylisoquinoline | CC1=C2C=CN=CC2=CC=C1 | C10H9N
